US09422271B2
A mixture of pyrimidine-2,4-diol (100 g, 0.892 mol) and NIS (220 g, 1.981 mol, 1.1 eq) in AcOH (900 mL) was stirred for about 7 h. Solid 5-iodopyrimidine-2,4-diol (202 g, 95%) was obtained by filtration, washed with ethyl acetate. LC-MS (m/z)=238.9 [M+H]+.

reactant | pyrimidine-2,4-diol | 0.892 mol, 100 g | N1=C(N=C(C=C1)O)O | C4H4N2O2
reactant | NIS | 1.981 mol, 220 g, 1.1 eq | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | AcOH | 900 mL | CC(=O)O | C2H4O2
product | 5-iodopyrimidine-2,4-diol | 202 g, 95% | IC=1C(=NC(=NC1)O)O | C4H3IN2O2
